US08912188B2
The solution of methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate (180 mg, 0.57 mmol) in (S)-1-phenylethanamine (2 mL) was stirred overnight at 95° C., and then purified via silica gel column chromatography (1%-2% ethyl acetate in petroleum ether) to afford (S)-methyl 2-(4-fluorophenyl)-3-(1-phenylethylamino)quinoxaline-6-carboxylate as yellow oil (100 mg, 44%).

reactant | methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.57 mmol, 180 mg | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C16H10ClFN2O2
solvent | (S)-1-phenylethanamine | 2 mL | C1(=CC=CC=C1)[C@H](C)N | C8H11N
product | (S)-methyl 2-(4-fluorophenyl)-3-(1-phenylethylamino)quinoxaline-6-carboxylate | 100 mg, 44% | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N[C@@H](C)C1=CC=CC=C1)C(=O)OC | C24H20FN3O2
